US05374637
To a cooled (ice-bath) mixture of 3.8 parts of cis-4-amino-5-chloro-2,3-dihydro-N-[3-methoxy-1-[2-(methylamino)ethyl]-4-piperidinyl]-7-benzofurancarboxamide monohydrate in 104.3 parts of trichloromethane were added 1.3 parts of 1-pyrrolidinecarbonyl chloride. After stirring for 15 min. at 0° C., there were added dropwise 1.31 parts of N,N-diethylethanamine, keeping the temperature below 10° C. Stirring was continued for 20 hours at room temperature. The reaction mixture was washed with water, dried, filtered and evaporated. The residue was crystallized from acetonitrile (to which some water was added). The product was filtered off at 0° C. and dried in vacuo at 40° C., yielding 3.3 parts (73.6%) of cis-4-amino-5-chloro-2,3-dihydro-N-[3-methoxy-1-[2-[methyl(1-pyrrolidinylcarbonyl)amino]ethyl]-4-piperidinyl]-7-benzofurancarboxamide monohydrate; mp. 112.0° C. (comp. 43).

reactant | cis-4-amino-5-chloro-2,3-dihydro-N-[3-methoxy-1-[2-(methylamino)ethyl]-4-piperidinyl]-7-benzofurancarboxamide monohydrate | O.NC1=C(C=C(C2=C1CCO2)C(=O)N[C@@H]2[C@@H](CN(CC2)CCNC)OC)Cl
reactant | trichloromethane | ClC(Cl)Cl | CHCl3
reactant | 1-pyrrolidinecarbonyl chloride | N1(CCCC1)C(=O)Cl | C5H8ClNO
solvent | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
product | cis-4-amino-5-chloro-2,3-dihydro-N-[3-methoxy-1-[2-[methyl(1-pyrrolidinylcarbonyl)amino]ethyl]-4-piperidinyl]-7-benzofurancarboxamide monohydrate | 73.6% | O.NC1=C(C=C(C2=C1CCO2)C(=O)N[C@@H]2[C@@H](CN(CC2)CCN(C(=O)N2CCCC2)C)OC)Cl | InChI=1S/C23H34ClN5O4.H2O/c1-27(23(31)29-7-3-4-8-29)10-11-28-9-5-18(19(14-28)32-2)26-22(30)16-13-17(24)20(25)15-6-12-33-21(15)16;/h13,18-19H,3-12,14,25H2,1-2H3,(H,26,30);1H2/t18-,19+;/m0./s1
